US06096736
To a solution of the above product, 5-carboxymethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (800 mg) and isopropylamine (1.0 ml) in dimethylformamide (20 ml) is added dropwise diethyl cyanophosphate (391 mg) at room temperature. The mixture is stirred overnight, and thereto is added ethyl acetate. The mixture is washed with water, dried, concentrated, and purified by silica gel column chromatography (solvent; dichloromethane:methanol=50:1), and further crystallized from diethyl ether to give 5-isopropylaminocarbonylmethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (840 mg).

reactant | 5-carboxymethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 800 mg | C(=O)(O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)NCCC)Cl)=O | C22H25ClN2O3
reactant | isopropylamine | 1.0 ml | C(C)(C)N | C3H9N
reactant | diethyl cyanophosphate | 391 mg | P(=O)(OCC)(OCC)C#N | C5H10NO3P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-isopropylaminocarbonylmethyl-1-(4-n-propylamino-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 840 mg | C(C)(C)NC(=O)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)NCCC)Cl)=O | C25H32ClN3O2
